US05120764
β-Ethylenylidene-Benzo[β]Thiophene-2-Ethanamine Hydrochloride
2-Thianaphthylmagnesium bromide is prepared from 2-thianaphthyllithium and MgBr2.OEt2. Using a procedure similar to that of Example 2, 3.85 g crude silylate product is isolated. Usual flash chromatography work-up results in an unidentified, insoluble purple solid. The desired product is isolated by adding 1M ethanolic HCl (95% of theoretical) to an ethereal solution of the free base. The product is a pale yellow solid (1.7 g, 72%); mp 235° C. (dec) (EtOH).

reactant | 2-thianaphthyllithium | C1(SC=CC2=CC=CC=C12)[Li]
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
solvent | OEt2 | O(CC)CC | C4H10O
product | 2-Thianaphthylmagnesium bromide | C1(SC=CC2=CC=CC=C12)[Mg]Br | InChI=1S/C9H7S.BrH.Mg/c1-2-4-9-7-10-6-5-8(9)3-1;;/h1-7H;1H;/q;;+1/p-1
